US06346532B1
To a solution of 490 mg of tert-butyl N-[1,1-di-methyl-2-[4-[[2-(2-pyridyl)acetyl]amino]phenyl]ethyl]-carbamate in 10 ml of methanol was added 30 ml of a 4N hydrochloride-ethyl acetate solution. After the reaction solution was stirred at room temperature for eight hours, the solvent was evaporated in vacuo. To the residue were added an aqueous solution of sodium hydrogen carbonate and potassium carbonate to adjust to pH about 12. The resulting aqueous phase was extracted with a mixed solvent of chloroform and tetrahydrofuran. The organic layer was dried over anhydrous magnesium sulfate and concentrated, the resulting residue was dissolved in 2 ml of 2-propanol and 2 ml of methanol, and 120 mg of (R)-styrene oxide was added thereto. After the reaction solution was heated to reflux for 24 hours, the solvent was evaporated in vacuo. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/methanol=30/1→15/1) and dissolved in methanol, 0.1 ml of a 4N hydrogen chloride-ethyl acetate solution was added, and the solvent was evaporated in vacuo. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/methanol=5/1) and a reversed phase column chromatography (eluent: water/methanol=2/1→1/1) to give 35 mg of (R)-4′-[2,2-dimethyl-2-[(2-hydroxy-2-phenylethyl)amino]ethyl]-2-(2-pyridyl)acetanilide hydrochloride.

reactant | tert-butyl N-[1,1-di-methyl-2-[4-[[2-(2-pyridyl)acetyl]amino]phenyl]ethyl]-carbamate | 490 mg | CC(CC1=CC=C(C=C1)NC(CC1=NC=CC=C1)=O)(C)NC(OC(C)(C)C)=O | C22H29N3O3
reactant | hydrochloride ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | methanol | 10 ml | CO | CH4O
product | (R)-4′-[2,2-dimethyl-2-[(2-hydroxy-2-phenylethyl)amino]ethyl]-2-(2-pyridyl)acetanilide hydrochloride | 35 mg | Cl.CC(CC1=CC=C(NC(CC2=NC=CC=C2)=O)C=C1)(NC[C@@H](C1=CC=CC=C1)O)C | InChI=1S/C25H29N3O2.ClH/c1-25(2,27-18-23(29)20-8-4-3-5-9-20)17-19-11-13-21(14-12-19)28-24(30)16-22-10-6-7-15-26-22;/h3-15,23,27,29H,16-18H2,1-2H3,(H,28,30);1H/t23-;/m0./s1
